US09328124B2
tert-Butyl N-allyl-N-(2-hydroxyimino-2-pyrazin-2-yl-ethyl)carbamate
tert-Butyl N-allyl-N-(2-oxo-2-pyrazin-2-yl-ethyl)carbamate (6.53 g, 23.55 mmol) is dissolved in ethanol (22 mL) with stirring under nitrogen. Hydroxylamine hydrochloride (3.80 g, 54.16 mmol) and pyridine (2.67 mL, 32.97 mmol) are added and the resulting solution is heated at 80° C. under nitrogen for 80 minutes. The reaction is then cooled to room temperature and is concentrated to a small volume under reduced pressure. Dichloromethane (200 ml) and 1 M aqueous sodium hydroxide (60 ml) are added and the phases are separated. The aqueous phase is re-extracted with dichloromethane (2×200 mL). The combined organic extracts are dried over magnesium sulfate and the solvent is evaporated under reduced pressure. The crude product is purified by silica gel chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound as a mixture of E/Z isomers (6.61 g, 96%). ES/MS (m/e): 293 (M+1).

reactant | tert-Butyl N-allyl-N-(2-oxo-2-pyrazin-2-yl-ethyl)carbamate | 23.55 mmol, 6.53 g | C(C=C)N(C(OC(C)(C)C)=O)CC(C1=NC=CN=C1)=O | C14H19N3O3
reactant | Hydroxylamine hydrochloride | 54.16 mmol, 3.80 g | Cl.NO
reactant | pyridine | 32.97 mmol, 2.67 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | tert-Butyl N-allyl-N-(2-hydroxyimino-2-pyrazin-2-yl-ethyl)carbamate | C(C=C)N(C(OC(C)(C)C)=O)CC(C1=NC=CN=C1)=NO | C14H20N4O3
